US04898978
0.1 mol of di-o-tolylthiourea, 3 mol of ammonia, and 0.1 mmol of Cu(OAc)2 are reacted in 130 g water with oxygen. The reaction temperature is 80° C. and the oxygen pressure 3 bar. Di-o-tolylguanidine is obtained in 93.2% yield after a reaction time of 3 hours.

reactant | di-o-tolylthiourea | 0.1 mol | C1(=C(C=CC=C1)NC(NC1=C(C=CC=C1)C)=S)C | C15H16N2S
reactant | ammonia | 3 mol | N | H3N
reactant | oxygen | O=O | O2
solvent | water | 130 g | O | H2O
catalyst | Cu(OAc)2 | 0.1 mmol | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | Di-o-tolylguanidine | 93.2% yield | CC=1C=CC=CC1NC(=N)NC=2C=CC=CC2C | C15H17N3
